US05292926
N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine Amide (Compound No. 15)
To a solution of S-p-methoxybenzyl-N-(2-p-methoxybenzylthio-2-methylpropionyl)-L-cysteine amide(500 mg) in liquid ammonia(10 ml), metallic sodium(0.15 g) was added under nitrogen atomosphere at -78° C. Ammonium chloride was added to the solution and ammonia was evaporated. Methanol and methylene chloride were added to the residue and filtered. The filtrate was concentrated in vacuo and the oily residue was purified by a silica gel column chromatography to give 80 mg(32%) of the titled compound.

reactant | S-p-methoxybenzyl-N-(2-p-methoxybenzylthio-2-methylpropionyl)-L-cysteine amide | 500 mg | COC1=CC=C(CSC[C@H](N)C(=O)NC(C(C)(C)SCC2=CC=C(C=C2)OC)=O)C=C1 | C23H30N2O4S2
reactant | sodium | 0.15 g | [Na] | Na
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | ammonia | 10 ml | N | H3N
product | N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine Amide | 80 mg, 32% | SC(C(=O)NC([C@@H](N)CS)=O)(C)C | C7H14N2O2S2
